US05270319
4,6-Bis-(1,1-dimethylethyl)-5-[(2-methoxyethoxy)methoxy]-2-pyrimidine carboxaldehyde (0.5 g, 1.5 mmoles) is treated with β-alanine (0.27 g, 3.1 mmoles) and pseudothiohydantoin (0.21 g, 1.8 mmoles) according to the procedure of Example 6 to give 0.056 g (11%) of 5-[[4,6-bis-(1,1-dimethylethyl]-5-hydroxy pyrimidinyl]methylene]-2-imino-4-thiazolidinone. MP=278°-281° C. dec.

reactant | 4,6-Bis-(1,1-dimethylethyl)-5-[(2-methoxyethoxy)methoxy]-2-pyrimidine carboxaldehyde | 1.5 mmoles, 0.5 g | CC(C)(C)C1=NC(=NC(=C1OCOCCOC)C(C)(C)C)C=O | C17H28N2O4
reactant | β-alanine | 3.1 mmoles, 0.27 g | NCCC(=O)O | C3H7NO2
reactant | pseudothiohydantoin | 1.8 mmoles, 0.21 g | COC=1C=CC(=CC1OC2CCCC2)/C=C\3/C(=O)NC(=N)S3 | C16H18N2O3S
product | 5-[[4,6-bis-(1,1-dimethylethyl]-5-hydroxy pyrimidinyl]methylene]-2-imino-4-thiazolidinone | 0.056 g, 11% | CC(C)(C)C1=NC(=NC(=C1O)C(C)(C)C)C=C1C(NC(S1)=N)=O | C16H22N4O2S
